US05075469
10 mM solution of Desferal (Ciba-Geigy, Basle) is mixed with an equal volume of 10 mM solution of ZnCl2 (A. R. Aldrich Chemical Co., Inc.) solution, titrated to pH 7.4. The mixture is heated for 30 min. to 45° C., and cooled and the complex Zn/Desferrioxamine B is formed. The ratio Zn:Desferal is 1.0:1.0.

reactant | Desferal | CC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCN)O)O)O.CS(=O)(=O)O
reactant | ZnCl2 | [Cl-].[Cl-].[Zn+2]
product | Zn Desferrioxamine B | [Zn].CC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCNC(=O)CCC(=O)N(CCCCCN)O)O)O | InChI=1S/C25H48N6O8.Zn/c1-21(32)29(37)18-9-3-6-16-27-22(33)12-14-25(36)31(39)20-10-4-7-17-28-23(34)11-13-24(35)30(38)19-8-2-5-15-26;/h37-39H,2-20,26H2,1H3,(H,27,33)(H,28,34);
